### PR TITLE
Various lemmas

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

This is te content of my mathcomp_complements file in one of my developments (other than floor/cel lemmas already integrated in #682 ). So this is a bunch of unrelated lemmas. This may need some cherry picking as some lemmas may have no intereset. Naming might also be weak sometimes.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/intdiv.v [hunk 1]
```diff
@@ -218,6 +221,16 @@ Qed.
...
 Proof. by move=> d_gt0; rewrite !leNgt ltz_divLR. Qed.
 
+Lemma lez_pdiv2r d : 0 <= d -> {homo divz^~ d : m n / m <= n}.
+Proof.
+case: d => [d | //] _ m n.
+case: m => m; case: n => n Hmn; rewrite /divz /= /sgz; case: d => [// | d] //;
+  rewrite /= !mul1r; first exact: leq_div2r.
+move: Hmn.
+rewrite !NegzE ler_oppl opprK lez_nat ltnS ler_oppl opprK lez_nat ltnS.
+exact: leq_div2r.
```
Comment (CohenCyril) [inline mathcomp/algebra/intdiv.v:231]:
```suggestion
by case: d => [[|d]|] _ [] m [] n//; rewrite /divz !mul1r; apply: leq_div2r.
```

Comment (proux01) [reply mathcomp/algebra/intdiv.v]: Impressive contraction, I just added a `//` to avoid a warning.

File: mathcomp/algebra/intdiv.v [hunk 2]
```diff
@@ -543,7 +551,39 @@ Proof. by rewrite -PoszM muln_gcdl -!abszM. Qed.
...
+
+Lemma lcmz_neq0 m n : (lcmz m n != 0) = (m != 0) && (n != 0).
+Proof.
+case: (@eqP _ m 0) => [->|/eqP] /=; first by rewrite lcm0z.
+case: (@eqP _ n 0) => [->|/eqP] /=; first by rewrite lcmz0.
+rewrite -absz_gt0 => Hn.
+rewrite -absz_gt0 => Hm.
+move: (conj Hm Hn) => /andP.
+rewrite -lcmn_gt0 /lcmz.
+by case: (lcmn _ _).
```
Comment (CohenCyril) [inline mathcomp/algebra/intdiv.v:585]:
```suggestion
have [->|m_neq0] := eqVneq m 0; first by rewrite lcm0z.
have [->|n_neq0] := eqVneq n 0; first by rewrite lcmz0.
by rewrite gt_eqF// [0 < _]lcmn_gt0 !absz_gt0 m_neq0 n_neq0.
```

**Review by CohenCyril — CHANGES_REQUESTED** [review]

File: mathcomp/algebra/intdiv.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/algebra/intdiv.v:585]: @proux01 best practice is to use `have [] := view` instead of `case` for these. Also the choice of `view` is subtle, `eqP` is seldom used. We prefer `eqVneq`, `ifP`, `ifPn`, `ltgtP` and suff like that. Last resort is usually `boolP` or `altP reflection_lemma` (where `reflection_lemma` can be `eqP`).

Comment (CohenCyril) [reply mathcomp/algebra/intdiv.v:585]: Another best practice rather than assemble the hypotheses like you did is to either
- rewrite the goal like I did (backward reasonning)
- or make `have : intermediate_statement` (forward reasoning) and switch back to backward reasoning inside the subgoal,
Massaging hypothesis should be done with parsimony as it clutters the proof script slightly more than the above techniques.

File: mathcomp/algebra/intdiv.v [hunk 3]
```diff
@@ -218,6 +221,11 @@ Qed.
 Lemma lez_divRL m n d : d > 0 -> (m <= (n %/ d)%Z) = (m * d <= n).
 Proof. by move=> d_gt0; rewrite !leNgt ltz_divLR. Qed.
 
+Lemma lez_pdiv2r d : 0 <= d -> {homo divz^~ d : m n / m <= n}.
+Proof.
+by case: d => [[|d]|] // _ [] m [] n //; rewrite /divz !mul1r; apply: leq_div2r.
```
Comment (CohenCyril) [inline mathcomp/algebra/intdiv.v:226]:
```suggestion
by case: d => [[|d]|]// _ [] m [] n //; rewrite /divz !mul1r; apply: leq_div2r.
```
(save 1 char to respect the 80char per line limit)

**Comment by CohenCyril** [comment]
@proux01 thanks for your contribution, it's likely all of this will be integrated. I will come back to your PR later to help with the tidying. Just some general remarks about mathcomp style meanwhile:
- do not use `{}` to focus, use the [mathcomp conventions](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md#indentation-in-proof-scripts)
- do not name hypothesis `Hsomething`, as expained [here](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md#naming-of-variables)

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -2738,6 +2754,19 @@ have [lt_k_n|le_n_k] := ltnP.
...
 
+Lemma take_map_nth_iota T (x0 : T) s i :
+  i <= size s -> take i s = [seq nth x0 s j | j <- iota 0 i].
+Proof.
+elim: s i => [| h t IH] i; first by case i.
+case: i => [//|i] /= Hi; apply f_equal.
+rewrite IH => //; apply (@eq_from_nth _ x0) => [| j Hj].
+  by rewrite !size_map !size_iota.
+move: Hj; rewrite size_map size_iota => Hj.
+rewrite (nth_map O); last by rewrite size_iota.
```
Comment (gares) [inline mathcomp/ssreflect/seq.v:2765]: With no presumption of being correct, since I did not test it, these two lines look like they could be written as
```
rewrite (nth_map O) ?size_iota // (nth_map O) ?size_iota //.
```

Comment (proux01) [reply mathcomp/ssreflect/seq.v]: Indeed, you are right.

File: mathcomp/ssreflect/path.v [hunk 5]
```diff
@@ -334,6 +340,21 @@ Lemma sorted_leq_nth x0 s : sorted leT s ->
...
+Proof. case: s i => [//| x s] [//| i]; exact: path_take. Qed.
+
+Lemma sorted_drop s i : sorted leT s -> sorted leT (drop i s).
+Proof.
+move=> s_sorted; elim: i => [| i]; first by rewrite drop0.
+case: (ltnP i (size s)) => [|i_lt_size_s]; last first.
+  by rewrite drop_oversize // drop_oversize //; exact: leq_trans.
+case s => [// | hs ts i_lt_size].
+by rewrite (drop_nth hs) //= => /path_sorted.
+Qed.
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:356]:
```suggestion
Lemma drop_mask i (s : seq T) : 
  drop i s = mask (nseq i false ++ nseq (size s - i) true) s.
Proof. 
elim: i s => [|i IHi] s; last by case: s.
by rewrite drop0 /= mask_true // subn0.
Qed.

Lemma sorted_drop s i : sorted leT s -> sorted leT (drop i s).
Proof. rewrite drop_mask; exact: sorted_mask. Qed.
```

Comment (chdoc) [reply mathcomp/ssreflect/path.v:356]: The `drop_mask` lemma should probably be moved elsewhere.

**Review by chdoc — CHANGES_REQUESTED** [review]

File: mathcomp/ssreflect/seq.v [hunk 6]
```diff
@@ -2738,6 +2754,18 @@ have [lt_k_n|le_n_k] := ltnP.
...
+  i <= size s -> take i s = [seq nth x0 s j | j <- iota 0 i].
+Proof.
+elim: s i => [| x s IHs] i; first by case i.
+case: i => [//|i] /= i_le_size_s; apply: f_equal.
+rewrite IHs => //; apply (@eq_from_nth _ x0) => [| j].
+  by rewrite !size_map !size_iota.
+rewrite size_map size_iota => Hj.
+do ![rewrite (nth_map O) ?size_iota //].
+by rewrite !nth_iota.
+Qed.
```
Comment (chdoc) [inline mathcomp/ssreflect/seq.v:2767]: If you move this after the MakeSeq section, this can be proved by:
```
by move=> ?; rewrite -[in LHS](mkseq_nth x0 s) -map_take take_iota (minn_idPl _).
```

File: mathcomp/ssreflect/path.v (hunk 5 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:356]: `elim: i s => [|i IHi] s; last by case: s.` -> `elim: i s => [|i IHi] []//`

Comment (proux01) [reply mathcomp/ssreflect/path.v]: Almost
```
Lemma drop_mask i s :
  drop i s = mask (nseq i false ++ nseq (size s - i) true) s.
Proof. by elim: i s => [s|? ? []//]; rewrite drop0/= mask_true// subn0. Qed.
```

File: mathcomp/ssreflect/seq.v (hunk 6 above)
Comment (proux01) [reply mathcomp/ssreflect/seq.v]: This was 81 chars so I just got the other way around (rewrite RHS instead of LHS).

File: mathcomp/ssreflect/path.v (hunk 5 above)
Comment (proux01) [reply mathcomp/ssreflect/path.v]: Unfortunately, this nice proof adds a useless hypothesis `transitive leT` :(

**Comment by CohenCyril** [comment]
@proux01 I committed what we did together (and filled the proofs for the nth sorted lemmas)

File: mathcomp/ssreflect/seq.v [hunk 7]
```diff
@@ -2773,6 +2793,12 @@ Proof. by rewrite -[s]mkseq_nth; constructor. Qed.
 
 End MakeSeq.
 
+Lemma take_map_nth_iota T (x0 : T) s i :
+  i <= size s -> take i s = [seq nth x0 s j | j <- iota 0 i].
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2797]: As discussed
```suggestion
Lemma map_nth_iota T (x0 : T) s i : i <= size s -> [seq nth x0 s j | j <- iota 0 i] = take i s.
```

File: mathcomp/ssreflect/path.v (hunk 5 above)
Comment (chdoc) [reply mathcomp/ssreflect/path.v]: If you're upset about the extra assumption, here is another possibility:
```coq
Lemma sorted_cat s1 s2 : sorted leT (s1 ++ s2) -> sorted leT s1 /\ sorted leT s2.
Proof.
by move: s1 s2 => [|x s1] [|y s2] //=; rewrite ?cats0 // cat_path /= => /and3P[].
Qed.

Lemma sorted_take n s : sorted leT s -> sorted leT (take n s).
Proof. by rewrite -[s in sorted _ s](cat_take_drop n) => /sorted_cat[]. Qed.

Lemma sorted_drop n s : sorted leT s -> sorted leT (drop n s).
Proof. by rewrite -[s in sorted _ s](cat_take_drop n) => /sorted_cat[]. Qed.
```

File: mathcomp/ssreflect/seq.v [hunk 8]
```diff
@@ -1343,6 +1343,12 @@ Proof.
 by rewrite -!cats1 undup_cat; congr cat; apply: eq_filter => y; rewrite inE.
 Qed.
 
+Lemma count_undup s p : count p (undup s) <= count p s.
+Proof.
+elim: s => // x s IHs /=; case x_in_s: (x \in s) => /=; last exact: leq_add.
+exact/(leq_trans IHs)/leq_addl.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:1350]:
```suggestion
Proof. by rewrite -!size_filter filter_undup size_undup. Qed.
```

File: mathcomp/ssreflect/seq.v [hunk 9]
```diff
@@ -1833,6 +1839,16 @@ suffices: perm_eq s (undup s) by move/perm_uniq->.
...
 Qed.
 
+Lemma eq_count_undup a s1 s2 :
+  {in a, s1 =i s2} -> count a (undup s1) = count a (undup s2).
+Proof.
+move=> s1_eq_s2; rewrite -!size_filter !filter_undup.
+apply/perm_size/perm_undup => x.
+apply/idP/idP; rewrite !mem_filter => /andP[ax x_in_s1]; rewrite ax /=.
+  by rewrite -s1_eq_s2.
+by rewrite s1_eq_s2.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:1849]:
```suggestion
move=> s1_eq_s2; rewrite -!size_filter !filter_undup.
apply/perm_size/perm_undup => x.
by rewrite !mem_filter; case: (boolP (a x)) => //= /s1_eq_s2.
```

File: mathcomp/algebra/ssralg.v [hunk 10]
```diff
@@ -4967,6 +4967,9 @@ Qed.
 Lemma fmorph_inj : injective f.
 Proof. by apply/raddf_inj => x /eqP; rewrite fmorph_eq0 => /eqP. Qed.
 
+Lemma fmorph_eq : {mono f : x y / x == y}.
+Proof. exact: inj_eq fmorph_inj. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:4971]: Lemmas in `ssralg` have to be exported from `GRing.Theory`. See #440.

**Comment by pi8027** [comment]
I will try to review order.v and path.v as well, but I think it will take some time.

**Comment by proux01** [comment]
@pi8027 please wait a bit, I'm still tidying them.

**Comment by proux01** [comment]
@pi8027 order.v and path.v should be cleaner now.

File: mathcomp/ssreflect/seq.v [hunk 11]
```diff
@@ -2743,6 +2764,24 @@ Proof.
...
+Qed.
+
+Lemma filter_iota_leq n m j : (j < n)%N ->
+  [seq i <- iota m n | (i <= m + j)%N] = iota m j.+1.
+Proof.
+elim: n m j => [//|n IHn] m [|j] jlen /=; rewrite leq_addr.
+  under eq_in_filter => i do rewrite addn0 leqNgt mem_iota => /andP[-> /=].
+  by rewrite filter_pred0.
+by rewrite addnS -addSn IHn -1?ltnS.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2783]: Nice!!!
Nitpicking:
- Please remove `%N` since it is inside `seq.v` there is no ambiguity.
- Also I would use `rewrite (@eq_in_filter _ _ pred0) ?filter_pred0// => i` instead of using`under` in this case.

File: mathcomp/ssreflect/order.v [hunk 12]
```diff
@@ -7540,6 +7659,55 @@ End DualOrder.
...
+rewrite (@le_sorted_filter_le _ (dual_orderType T)); last by rewrite rev_sorted.
+by rewrite take_rev revK count_rev.
+Qed.
+
+Lemma nth_ge_count_lt x x0 s i : sorted <=%O s ->
+  (count (< x) s <= i < size s)%nat -> x <= nth x0 s i.
+Proof.
+move=> ss /andP[igec ilts]; rewrite -(subnKC igec) -nth_drop.
+rewrite -le_sorted_filter_ge //.
+move: (filter_all (>= x) s) => /all_nthP; apply; rewrite size_filter.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/order.v:7688]:
```suggestion
move: (filter_all (>= x) s) => /all_nthP; apply; rewrite size_filter.
```
I'd use `have /all_nthP := filter_all (>= x) s` instead of `move:` since `move:` is better suited to "meaningless" handling of the goal, while `have` marks key steps.

File: mathcomp/ssreflect/seq.v [hunk 13]
```diff
@@ -2047,6 +2064,10 @@ exists (take (size s) m ++ nseq (size s - size m) false).
 by elim: s m => [|x s IHs] [|b m] //=; rewrite (mask_false, IHs).
 Qed.
 
+Lemma drop_mask i s :
+  drop i s = mask (nseq i false ++ nseq (size s - i) true) s.
+Proof. by elim: i s => [s|? ? []//]; rewrite drop0/= mask_true// subn0. Qed.
+
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2070]: Please add `take_mask` then :)

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2070]: I personally prefer `dropEmask` and `takeEmask` though

Comment (chdoc) [reply mathcomp/ssreflect/seq.v:2070]: I was about to say that `drop_mask` was badly chosen by me. I agree with the `E` variants.

**Review by CohenCyril — APPROVED** [review]
LGTM, ready to merge IMO

File: mathcomp/ssreflect/order.v [hunk 14]
```diff
@@ -2778,6 +2778,107 @@ Proof. exact/sorted_eq/le_anti/le_trans. Qed.
...
+
+Lemma count_lt_le_mem x s :
+  (count (< x) s < count (<= x) s)%N -> x \in s.
+Proof.
+have := count_predUI (pred1 x) (< x) s.
+have -> : count (predI (pred1 x) (< x)) s = 0%N.
+  rewrite (@eq_count _ _ pred0) ?count_pred0 // => y /=.
+  by rewrite lt_def; case: eqP => //= ->; rewrite eqxx.
+have /eq_count-> : [predU1 x & < x] =1 (<= x) by move=> y /=; rewrite le_eqVlt.
+by rewrite addn0 => ->; rewrite addnC -ltn_subLR ?subnn// -has_count has_pred1.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:2847]:
```suggestion
by rewrite addn0 => ->; rewrite -add1n leq_add2r -has_count has_pred1.
```

File: mathcomp/ssreflect/order.v [hunk 15]
```diff
@@ -3947,6 +4048,20 @@ Proof. by apply: extremumP => //; [apply: ge_refl | apply: ge_trans]. Qed.
 
 End ArgExtremum.
 
+Lemma count_le_gt x s : count (<= x) s = size s - count (> x) s.
+Proof.
+rewrite -(count_predC (<= x)).
+under [X in (_ + X)%N]eq_count => y do rewrite /= -ltNge.
+by rewrite addnK.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:4055]:
```suggestion
by rewrite -(count_predC (> x)) addKn; apply: eq_count => y; rewrite /= leNgt.
```

File: mathcomp/ssreflect/order.v [hunk 16]
```diff
@@ -3947,6 +4048,20 @@ Proof. by apply: extremumP => //; [apply: ge_refl | apply: ge_trans]. Qed.
...
+Qed.
+
+Lemma count_lt_ge x s : count (< x) s = size s - count (>= x) s.
+Proof.
+rewrite -(count_predC (< x)).
+under [X in (_ + X)%N]eq_count => y do rewrite /= -leNgt.
+by rewrite addnK.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:4062]:
```suggestion
by rewrite -(count_predC (>= x)) addKn; apply: eq_count => y; rewrite /= ltNge.
```

File: mathcomp/ssreflect/path.v [hunk 17]
```diff
@@ -1057,6 +1083,14 @@ apply: (sorted_eq leT_tr leT_asym); rewrite ?sort_sorted //.
 by rewrite perm_sort (permPl eq12) -perm_sort.
 Qed.
 
+Lemma count_merge p s1 s2 : count p (merge leT s1 s2) = count p (s1 ++ s2).
+Proof. exact/permP/permPl/perm_merge. Qed.
+
+Lemma eq_count_merge (p : pred T) s1 s1' s2 s2' :
+  count p s1 = count p s1' -> count p s2 = count p s2' ->
+  count p (merge leT s1 s2) = count p (merge leT s1' s2').
+Proof. by move=> ? ?; rewrite !count_merge !count_cat; congr (_ + _). Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:1092]:
```suggestion
Proof. by rewrite !count_merge !count_cat => -> ->. Qed.
```

File: mathcomp/ssreflect/path.v [hunk 18]
```diff
@@ -301,6 +306,12 @@ Qed.
 
 Hypothesis leT_tr : transitive leT.
 
+Lemma path_le x x' s : leT x x' -> path leT x' s -> path leT x s.
+Proof.
+case: s => [//| xlex' x'' s /= /andP[x'lex'' ->]].
+rewrite andbC /=; exact: leT_tr x'lex''.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:312]:
```suggestion
by case: s => [//| x'' s xlex' /= /andP[x'lex'' ->]]; rewrite (leT_tr xlex').
```

File: mathcomp/ssreflect/order.v [hunk 19]
```diff
@@ -7540,6 +7655,52 @@ End DualOrder.
 Canonical dual_finOrderType d (T : finOrderType d) :=
   [finOrderType of T^d].
 
+Section DualOrderTheory.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:7658]: I think this should be a part of the `TotalTheory` module but it requires us to relocate `dual_orderType`. I can do this in a separate PR.

Comment (proux01) [reply mathcomp/ssreflect/order.v:7654]: I agree, thanks!

**Comment by CohenCyril** [comment]
@proux01 you need to rebase as well

File: mathcomp/ssreflect/path.v [hunk 20]
```diff
@@ -334,6 +344,15 @@ Lemma sorted_leq_nth x0 s : sorted leT s ->
   {in [pred n | n < size s] &, {homo nth x0 s : i j / i <= j >-> leT i j}}.
 Proof. exact/sorted_leq_nth_in/all_predT. Qed.
 
+Lemma path_take x s i : path leT x s -> path leT x (take i s).
+Proof. elim: s x i => [//| x s] IHs x' [//| i] /= /andP[-> ?]; exact: IHs. Qed.
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:348]: This has nothing to do with sorting or ordering. If it is to be kept at all, it should be moved after `rcons_path` as:
```coq
Lemma path_take x p i : path x p -> path x (take i p).
Proof. by rewrite -{1}[p](cat_take_drop i) cat_path => /andP[->]. Qed.
```
@CohenCyril I'm never quite sure about the naming conventions for `path` lemmas (e.g., `cat_path` or `rcons_path`). So should this be `path_take` or `take_path?`.

**Review by chdoc — APPROVED** [review]
Apart from those two minor points, this LGTM.

File: mathcomp/ssreflect/path.v [hunk 21]
```diff
@@ -112,6 +112,9 @@ Proof. by elim: p1 x => [|y p1 Hrec] x //=; rewrite Hrec -!andbA. Qed.
 Lemma rcons_path x p y : path x (rcons p y) = path x p && e (last x p) y.
 Proof. by rewrite -cats1 cat_path /= andbT. Qed.
 
+Lemma path_take x p i : path x p -> path x (take i p).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:115]: Should be `take_path` (well spotted @chdoc).
Indeed unary predicates usually come as a suffix in mathcomp conventions, one can argue whether `path` is unary or binary, but the rest of the library seems to consider `x` as simply an accessory parameter and the only real parameter is `p`.

File: mathcomp/ssreflect/path.v [hunk 22]
```diff
@@ -258,6 +261,11 @@ Lemma path_pairwise_in x s :
   all P (x :: s) -> path leT x s = pairwise leT (x :: s).
 Proof. by move=> Pxs; rewrite -sorted_pairwise_in. Qed.
 
+Lemma sorted_cat s1 s2 : sorted leT (s1 ++ s2) -> sorted leT s1 * sorted leT s2.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:264]: should be `cat_sorted`

File: mathcomp/ssreflect/path.v [hunk 23]
```diff
@@ -334,6 +347,12 @@ Lemma sorted_leq_nth x0 s : sorted leT s ->
   {in [pred n | n < size s] &, {homo nth x0 s : i j / i <= j >-> leT i j}}.
 Proof. exact/sorted_leq_nth_in/all_predT. Qed.
 
+Lemma sorted_take n s : sorted leT s -> sorted leT (take n s).
+Proof. by rewrite -[s in sorted _ s](cat_take_drop n) => /sorted_cat[]. Qed.
+
+Lemma sorted_drop n s : sorted leT s -> sorted leT (drop n s).
+Proof. by rewrite -[s in sorted _ s](cat_take_drop n) => /sorted_cat[]. Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:354]: Should be `take_sorted` and `drop_sorted`

**Review by CohenCyril — CHANGES_REQUESTED** [review]
@proux01 one last change following @chdoc remark and we are good to go

File: mathcomp/ssreflect/path.v (hunk 22 above)
Comment (chdoc) [reply mathcomp/ssreflect/path.v:264]: Shouldn't there actually also be an `E` somewhere (e.g. `cat_sortedE`) since the name refers to the shape of the premise rather than the conclusion?

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: @chdoc you are right about the fact this one is misnamed..., I was a bit too eager in my renaming suggestions.
It would not matter so much if there wasn't a possibly better candidate for being named `cat_sorted`, namely
```coq
Lemma cat_sorted x y s1 s2 (s1x := rcons s1 x) (ys2 := y :: s2) :
  sorted leT s1x ys2 = [&& x <= y, sorted leT s1x & sorted leT ys2].
```

However `E` lemma are usually "elimination equation" lemmas (taking a symbol to an equivalent definition), this is not the case here, so `car_sortedE` would also be misnamed

In this light, I suggest we'd rather name it `cat_sorted2` to signify both (2) sides of the `cat` are sorted, or that we keep `sorted_cat` even thought the name does not respect usual conventions.

**Review by CohenCyril — APPROVED** [review]

**Comment by CohenCyril** [comment]
OK, let's merge as soon as CI passes \o/

**Comment by proux01** [comment]
Thanks all for your patience! I learned a lot.

File: mathcomp/ssreflect/order.v (hunk 19 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v:7664]: This should be addressed in #1166.
